Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
s/p assault 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr ___, ___ year M status post assault apparently intoxicated
injury to left face. 
 
Past Medical History:
PMH:
HTN, chronic etoh abuse, hx of withdrawl with seizure activity, 
some recent sobriety, psych hx

PSH:
R femur fixation
 
Social History:
___
Family History:
Non-contributory 
 
Physical Exam:
Admission Physical Exam:
VS: HR: 91, BP: 190/97, RR: 20, O2:92% on 3L NC
General: Alert and oriented, anxious 
CV: RRR
PULM: CTA b/l
Neuro: L pupil sluggish. GCS 15

Discharge Physical Exam:
General: A+Ox3, NAD
HEENT: b/l periorbital ecchymosis. Conjunctiva: OD: White. OS: 
subconjunctival hemorrhage
CV: RRR
PULM: rhonchi b/l with expiration. CTA with inspiration b/l
ABD: soft, non-distended, non-tender
 
Pertinent Results:
___ 07:28PM   TYPE-ART PO2-141* PCO2-43 PH-7.38 TOTAL 
CO2-26 BASE XS-0 COMMENTS-GREEN TOP 
___ 07:28PM   GLUCOSE-151* LACTATE-3.1* NA+-145 K+-3.4 
CL--105
___ 07:28PM   HGB-15.4 calcHCT-46 O2 SAT-92 CARBOXYHB-7* 
MET HGB-0
___ 07:28PM   freeCa-1.02*
___ 07:21PM   UREA N-13 CREAT-0.7
___ 07:21PM   LIPASE-48
___ 07:21PM   ASA-NEG ___ ACETMNPHN-NEG 
bnzodzpn-NEG barbitrt-NEG tricyclic-NEG
___ 07:21PM   WBC-8.7 RBC-4.38* HGB-14.8 HCT-42.2 MCV-96 
MCH-33.8* MCHC-35.1 RDW-14.6 RDWSD-51.3*
___ 07:21PM   PLT COUNT-267
___ 07:21PM   ___ PTT-29.8 ___
___ 07:21PM   ___

Imaging: 

___: CXR:
No acute findings.

___: CT Head: 
1.  No acute intracranial hemorrhage. 
2.  Left facial soft tissue swelling with left globe proptosis 
and small left retrobulbar hematoma.  Please correlate with 
same-day facial bone CT. 

___: CT Chest/ABD/Pelvis:
1.  No acute sequelae of trauma. 
2.  Mild emphysema. 
3.  Diverticulosis. 

___: CT C-spine:
No fracture or traumatic malalignment.

___: CT Sinus/Max/Mandible:
1. Left facial soft tissue swelling/hematoma with no fracture. 
2. Mild left globe proptosis with small left retrobulbar 
hematoma. 

 
Brief Hospital Course:
Mr. ___ is a ___ year-old male who presented to ___ on 
___ s/p facial assault.  He had imaging which revealed left 
facial soft tissue swelling/hematoma with no fracture as well as 
mild left globe proptosis with small left retrobulbar hematoma.  
He was admitted to the Trauma/Acute Care Surgery team for 
further medical management.  He was transferred to the surgical 
floor for neurological assessment and pain control. 

On HD1, the Ophthalmology team was consulted.  No surgical 
intervention was warranted and his intraocular pressures 
remained stable.  He was re-evaluated by the Ophthalmology team 
on ___ and, again, no intervention was necessary.  He was 
instructed to arrange a follow-up appointment with the 
Ophthalmology clinic. 

On HD2, the patient was started on a CIWA scale as there was 
concern for alcohol withdrawal.  His blood pressure was elevated 
and his home dose of lisinopril was adjusted and he received IV 
hydralazine. It was discussed with the patient that he should 
follow-up with his Primary Care Provider to address his 
hypertension. 

The remainder of the ___ hospital course is summarized by 
systems below: 

Neuro: The patient was alert and oriented throughout 
hospitalization; pain was managed with po pain medicine once 
tolerating a diet. 

CV: The patient remained stable from a cardiovascular 
standpoint; vital signs were routinely monitored.

Pulmonary: The patient remained stable from a pulmonary 
standpoint; vital signs were routinely monitored. Good pulmonary 
toilet, early ambulation and incentive spirometry were 
encouraged throughout hospitalization. 

GI/GU/FEN: The patient tolerated a regular.  His intake and 
output were closely monitored

ID: The patient's fever curves were closely watched for signs of 
infection, of which there were none.

HEME: The patient's blood counts were closely watched for signs 
of bleeding, of which there were none.

Prophylaxis: The patient received subcutaneous heparin and ___ 
dyne boots were used during this stay and was encouraged to get 
up and ambulate as early as possible.

At the time of discharge, the patient was doing well, afebrile 
and hemodynamically stable.  The patient was tolerating a diet, 
ambulating, voiding without assistance, and pain was well 
controlled.  The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
Lisinopril 10'
Wellbutrin 150'
Hydroxyzine 50'
 
Discharge Medications:
1. Acetaminophen 325-650 mg PO Q6H:PRN pain 
2. BuPROPion (Sustained Release) 150 mg PO QAM 
3. Docusate Sodium 100 mg PO BID 
please hold for loose stool  
4. HydrOXYzine 50 mg PO DAILY 
5. Senna 8.6 mg PO BID:PRN constipation  
6. Lisinopril 10 mg PO DAILY 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left eye periorbital ecchymosis, mild left proptosis with 
subconjunctival hemorrhage 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You presented to the ___ on 
___ after suffering facial assault.  You were found to have 
tissue bruising around your left eye and increased left eye 
pressure. You were evaluated by the Ophthalmology team and no 
surgical intervention was necessary.  You were admitted to the 
Trauma/Acute Care Surgery team for further medical management.

Your left eye swelling improved and it is recommended you follow 
up in 1 week in the Ophthalmology clinic.  Please call for any 
worsening of your vision, increased pain or any other symptoms 
which concern you. 

You are now medically cleared to be discharged home to continue 
your recovery.  Please follow-up with the Ophthalmology clinic 
in ___ days.  Please note the following discharge instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.

Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___